Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metformin
 
Attending: ___.
 
Chief Complaint:
Leg swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMX of DM II, Stage III-IV 
CKD with recent increase in baseline cr to 4, presenting with 
worsening shortness of breath during an outpatient nephrology 
visit. The patient notes worsening dyspnea symptoms over past 
few days. His PCP had attempted to increase his lasix dose from 
20mg to 40mg daily wihthout improvement. He endorses orthopnea 
(sleeps w/ 3+ pillows), PND, dizziness and SOB when ambulating 
but not at rest. No CP. He feels weak overall.On exam in his 
nephrologist's office he was noted to have ___ pitting edema up 
to the thighs. Urine examination showed many muddy brown casts, 
3+ protein, and sed rate 1.015. Given his worsening symptoms and 
exam, he was transferred to ED.
Additionally, he has felt nauseous without any episodes of 
emesis. No recent fevers, chills, sweats, or diarrhea. He does 
promote a decreased appetite recently. He has had a chronic 
non-productive cough which is chronic but worse over last year. 
Denies any episodes of hempotysis. He has similar admission to 
the heart failure service in ___ without clear evidence 
of hf on echo and no evidence of ischemia on stress echo 
although he only obtained 3.8 mets.
In the ED, initial vitals were: 99.3 68 181/92 20 100%. Renal 
saw the patient and recommended routine labs and diuresis. Labs 
notable for K+ 3.0, Cr 4.8, and BNP 8875. A CXR was read as 
normal without any pulm edema.He received 60mg PO lasix as well 
as 40 mEq of potassium for a K of 3.0.
 
Past Medical History:
1. HTN
2. HLD
3. CKD, stage III (baseline Cr 1.8-2.0) 
4. Anemia (baseline Hct ___
5. DM2

 
Social History:
___
Family History:
Father - died of esophageal cancer. Mother - died of CVA. Sister 
and brother - DM2. 
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.2, 180/100 P86 20 100% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE EXAM:
VS: T 98.2, HR 84, BP 150/82, RR 20, O2 100% RA, I/O ___, 
orthostatics: BP 150/82 HR 84 --> BP 153/103 HR 82
General: Alert, oriented, no acute distress
Neck: Supple, JVP flat, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, nontender, nondistended, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses. No clubbing, cyanosis, or 
edema.
Neuro: CN II-XII grossly intact, moving all extremities
 
Pertinent Results:
ADMISSION LABS:
___ 03:45PM BLOOD WBC-8.6# RBC-2.87* Hgb-8.4* Hct-25.2* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.4 Plt ___
___ 03:45PM BLOOD Neuts-80.0* Lymphs-13.1* Monos-4.6 
Eos-2.1 Baso-0.3
___ 03:45PM BLOOD Glucose-161* UreaN-57* Creat-4.8* Na-140 
K-3.0* Cl-106 HCO3-30 AnGap-7*
___ 03:45PM BLOOD proBNP-8875*
___ 03:45PM BLOOD Calcium-7.1* Phos-4.6* Mg-1.6

DISCHARGE LABS:
___ 05:20AM BLOOD WBC-6.5 RBC-3.00* Hgb-8.9* Hct-26.0* 
MCV-87 MCH-29.7 MCHC-34.3 RDW-13.0 Plt ___
___ 05:20AM BLOOD Glucose-119* UreaN-69* Creat-6.2* Na-137 
K-3.9 Cl-99 HCO3-29 AnGap-13
___ 05:20AM BLOOD Calcium-7.7* Phos-5.9* Mg-1.8

ADDITIONAL LABS:
___ 05:30AM BLOOD Ret Aut-1.9
___ 05:30AM BLOOD ALT-19 AST-18 LD(LDH)-248 AlkPhos-46 
TotBili-0.3
___ 12:40PM BLOOD Hapto-7*
___ 05:30AM BLOOD Triglyc-169* HDL-63 CHOL/HD-4.3 
LDLcalc-172*
___ 12:40PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-POSITIVE
___ 12:40PM BLOOD C3-105 C4-22
___ 05:30AM BLOOD HIV Ab-NEGATIVE
___:40PM BLOOD HCV Ab-NEGATIVE

IMAGING:
TTE (___): The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal and mid inferior segemenst. Overall left ventricular 
systolic function is normal (LVEF 55-60%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The right ventricular free wall thickness is 
normal. The right ventricular cavity is mildly dilated with 
normal free wall contractility. Tricuspid annular plane systolic 
excursion is normal (2.2 cm) consistent with normal right 
ventricular systolic function. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. Moderate (2+) 
mitral regurgitation is seen, though may be underestimated due 
to Coanda effect. The pulmonary artery systolic pressure could 
not be determined. There is a moderate sized pericardial 
effusion. The effusion appears circumferential. There are no 
echocardiographic signs of tamponade. 
IMPRESSION: Mild focal left ventricular systolic dysfunction 
with overall preserved LV function. Mildly dilated right 
ventricle with normal function. At least moderate mitral 
regurgitation. Mild to moderate sized circumferential 
pericardial effusion without evidence of tamponade physiology. 
Compared with the prior exam dated ___, overall LV function 
is slightly more vigorous. Pericardial effusion size is similar. 
Degree of mitral regurgitation is more prominent (previously 
mild to moderate). Otherwise, the findings are similar.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of hypertension, 
type 2 diabetes mellitus, and stage III-IV chronic kidney 
disease with recent increase in baseline creatinine who 
presented with worsening renal function and peripheral edema.

==================================================
ACUTE ISSUES:
==================================================

# Acute on chronic kidney disease:  Patient's renal function has 
been progressively worsening over the past seveal months.  Per 
renal, most likely etiology of decompensation is progression of 
diabetic nephropathy.  Urine sediment showed no evidence of 
dysmorphic RBCs or cellular casts that might indicate another 
superimposed glomerular process, so they did not believe a 
kidney biopsy was warranted.  Hepatitis serologies and HIV were 
negative, and complement levels were normal.  Patient's 
creatinine on discharge was 6.2.

# ___ edema:  Patient met criteria for nephrotic syndrome with 24 
hour protein of >12,000 and albumin/creatinine ratio of 8.2.  
Given clear lungs, his edema was most likely secondary to 
nephrotic syndrome.  Echocardiogram was notable for mildly 
dilated RV but normal estimated RA pressure (unchanged from 
prior), so right heart failure was less likely.  Patient was 
diuresed with lasix (up to 80mg IV bid) and his edema entirely 
resolved. 

# Hypokalemia:  Potassium was low on admission (K=3) and through 
the first two days of admission despite potassium 
supplementation.  Most likely etiology of hypokalemia is 
potassium wasting from the kidney.  We started him on 
spironolactone 25mg po daily and his potassium remained stable.  
  

# Orthostatic hypotension:  Patient had symptomatic orthostatic 
hypotension on the day prior to discharge, likely secondary to 
aggressive diuresis and an increase in his anti-hypertensives.  
Orthostasis resolved with two fluid boluses and a decrease in 
labetalol and losartan doses. 

==================================================
CHRONIC ISSUES:
==================================================

# Hypertension:  Patient's blood pressure was elevated on 
admission and remained difficult to control.  His metoprolol was 
increased to 400mg po bid and losartan 50mg po daily was added 
(his lisinopril was discontinued due to cough).

# Pericardial effusion:  Echocardiogram on ___ revealed a 
pericardial effusion stable since ___.  There is no obvious 
explanation for the effusion (possibly related to 
hypoalbuminemia, BUN not high enough for uremic effusion).  
Please repeat TTE in two weeks to reassess size of effusion.

# Dyspnea and cough:  Paient endorsed stable orthopnea and DOE 
but denied resting dyspnea.  He also reported a chronic 
nonproductive cough.  There was no evidence of congestive heart 
failure.  It is possible that the pericardial effusion may be 
causing dyspnea.  We switched his lisinopril to losartan to see 
if it was ACEi-related.

# Type 2 diabetes mellitus:  Patient's blood sugars were 
well-controlled on home lantus 20 units qhs and humalog sliding 
scale with meals.  He appears to have poor insight into his 
diabetes and it is unclear whether or not he checks his blood 
sugar at home.  Please continue diabetes education.  

# Low haptoglobin/anemia:  LDH and TBili were normal so it did 
not appear that patient was hemolyzing.  Liver function tests 
were otherwise normal.  Low haptoglobin is likely the result of 
wasting through the kidney.

==================================================
TRANSITIONAL ISSUES:
==================================================
[ ] Please repeat echocardiogram in 2 weeks (___) to 
evaluate pericardial effusion
[ ] Furosemide was increased from 40mg po daily to 80mg po 
daily. Lisinopril was discontinued due to chronic cough and 
switched to losartan 50mg po daily.  Labetalol was increased 
from 100mg bid to ___ bid. 
[ ] Patient is scheduled for a chem 10 next week during 
follow-up appointment with renal. Please follow up on results. 
[ ] Please review diabetes education and management.  Patient 
appears to have poor insight into his diabetes and it is unclear 
if he is taking his insulin at home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alavert (loratadine) 10 mg oral daily 
2. Alaway (ketotifen fumarate) 0.025 % ophthalmic daily 
3. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Atorvastatin 40 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Furosemide 40 mg PO DAILY 
7. Gabapentin 100 mg PO BID 
8. Labetalol 100 mg PO BID 
9. Omeprazole 20 mg PO DAILY 
10. Acetaminophen 325 mg PO Q6H:PRN pain 
11. Ondansetron 8 mg PO Q8H:PRN nausea 
12. Aspirin 81 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Atorvastatin 40 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Labetalol 400 mg PO BID 
RX *labetalol 200 mg 2 tablet(s) by mouth twice a day Disp #*120 
Tablet Refills:*0
7. Omeprazole 20 mg PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. Losartan Potassium 50 mg PO DAILY 
RX *losartan [Cozaar] 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. Metoclopramide 5 mg PO QIDACHS 
RX *metoclopramide HCl 5 mg 1 mg by mouth qid prn Disp #*120 
Tablet Refills:*0
11. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
12. Alavert (loratadine) 10 mg oral daily 
13. Alaway (ketotifen fumarate) 0.025 % ophthalmic daily 
14. Aspirin 81 mg PO DAILY 
15. Furosemide 80 mg PO DAILY 
RX *furosemide 80 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
16. Gabapentin 100 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Acute on chronic kidney disease
Nephrotic syndrome

SECONDARY:
Type 2 diabetes mellitus
Hypertension
Hyperlipidemia
Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted for leg swelling.  We found that your kidneys were not 
working well, most likely related to your diabetes.  We gave you 
higher doses of your water pill and your leg swelling improved.  
Your blood pressure was also elevated, so we increased the dose 
of your blood pressure medication and added an additional blood 
pressure medication.

Please continue to take your medications as prescribed and keep 
your follow-up appointments.  It is very important that your 
blood sugar is well-controlled.  We would like you to see Dr. 
___ nephrologist) next week.  You will be contacted 
with an appointment date/time.

Please make sure you eat a low salt diet to prevent fluid 
accumulation. 

-Your ___ Team
 
Followup Instructions:
___